US04657909
Preparation of 6-[[[2-(dimethylamino)ethyl]imino]methyl]-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester
6-Formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester (500 mg, 1.52 mmol) was suspended in 50 ml of tetrahydrofuran and 2-(dimethylamino)ethylamine (160 mg, 1.83 mmol) was added dropwise with stirring to produce a deep purple solution. After about 20 minutes at room temperature, an orange precipitate formed and the reaction mixture gradually developed an orange color.

reactant | 6-Formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester | 1.52 mmol, 500 mg | C(=O)C1=C2N=C3C(=CC=C(C3=NC2=C(C(=C1O)C)O)C(=O)OC)O | C16H12N2O6
reactant | 2-(dimethylamino)ethylamine | 1.83 mmol, 160 mg | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-[[[2-(dimethylamino)ethyl]imino]methyl]-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester | CN(CCN=CC1=C2N=C3C(=CC=C(C3=NC2=C(C(=C1O)C)O)C(=O)OC)O)C | C20H22N4O5
